US05332831
Methyl 2-(5-methyl-2-benzofuranyl)benzoate
A solution of methyl 2-bromobenzoate (11.70 g), Intermediate 1 (12.75 g) and tetrakistriphenylphosphine palladium (0) (0.5 g) in DME (300 ml) and 2N aqueous Na2CO3 (60 ml) was heated at reflux with vigorous stirring under nitrogen. After 1.5 h a further 500 mg of catalyst was added and stirring at reflux under nitrogen continued. After about 5 h the reaction was cooled to room temperature and diluted with ether (300 ml). The organic layer was separated and washed with water (3×100 ml) and dried. Filtration and evaporation gave a yellow oily suspension (19.27 g) which was purified by chromatography eluting with System A (1:9) to give a yellow oil (11.06 g). This was further purified by Kugelrohr distillation to give the title compound (4.31 g).

reactant | methyl 2-bromobenzoate | 11.70 g | BrC1=C(C(=O)OC)C=CC=C1 | C8H7BrO2
reactant | DME | 300 ml | COCCOC | C4H10O2
solvent | Na2CO3 | 2N, 60 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 300 ml | CCOCC | C4H10O
product | Methyl 2-(5-methyl-2-benzofuranyl)benzoate | 19.27 g | CC=1C=CC2=C(C=C(O2)C2=C(C(=O)OC)C=CC=C2)C1 | C17H14O3
